US06586429B2
A mixture of (R)-3-(5-acetoxyhexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (700 mg, 2.0 mmol) and a 1.0 M solution of hydrogen chloride in diethyl ether (5 ml, 5.0 mmol) in methanol (100 ml) was stirred at room temperature overnight. After concentrating under reduced pressure, the residual solid was treated with ethyl acetate (20 ml) and stirred at room temperature for 2 hours. Filtration provided (R)-7,8-dihydro-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (CT-13430) (400 mg, 65% yield) as a white powder.

reactant | (R)-3-(5-acetoxyhexyl)-7,8-dihydro-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 2.0 mmol, 700 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCN3)C)=O)C | C16H23N5O4
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | 5.0 mmol, 5 ml | C(C)OCC | C4H10O
solvent | methanol | 100 ml | CO | CH4O
product | (R)-7,8-dihydro-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 400 mg, 65% yield | O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCN3)C)=O)C | C14H21N5O3
